US05096724
100 Grams of the acid-washed silica was added to 150-200 ml of 2 M potassium hydroxide in methanol and stirred for 5 minutes under vacuum. The methanolic KOH was filtered off on a Buchner funnel, and the silica was rinsed with a small amount of methanol. The silica was added to 5.3 g of cyanogen bromide in 20 ml of acetonitrile on an ice bath with stirring, over a period of 2 minutes. The mixture was allowed to stir for a total of 5 minutes, after which time the excess CNBr/acetonitrile was filtered off on a Buchner funnel. The silica was rinsed quickly with acetonitrile, then added to a flask containing 20 mmoles of tetraethylenepentamine HCl in water at pH 9.0. The mixture was incubated overnight on a shaker at room temperature, after which excess tetraethylenepentamine was removed by filtration on extensive rinsing with 1 mM sodium hydroxide, followed by water, until tetraethylenepentamine was no longer detected in the eluted wash fractions to give tetraethylenepentamine immobilized on silica ("silica/tetren").

reactant | potassium hydroxide | 2 M, 150-200 ml | [OH-].[K+]
reactant | tetraethylenepentamine HCl | 20 mmoles | Cl.NCCNCCNCCNCCN
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | tetraethylenepentamine | NCCNCCNCCNCCN | C8H23N5
